US06930120B2
[5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-acetic acid
[5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-acetic acid methyl ester (3.44 g, 13.7 mmol), in MeOH (45 mL) was treated with 5N NaOH (16 mL) and then the solution was warmed to 40° C. After 30 min, the reaction mixture was concentrated under reduced pressure, suspended in water, and then acidified to pH=1 with 5N HCl. The mixture was extracted with EtOAc (2×), dried (MgSO4), and concentrated to provide 2.47 g (76%) of the product as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 7.43 (d, J=3.6 Hz, 1H), 6.73 (dd, J=3.6, 0.8 Hz, 1H), 3.59 (s, 2H), 2.51 (s, 3H), 2.32 (s, 3H).

reactant | [5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-acetic acid methyl ester | 13.7 mmol, 3.44 g | COC(CC=1N=C(OC1C)C=1SC(=CC1)C)=O | C12H13NO3S
reactant | NaOH | 5N, 16 mL | [OH-].[Na+]
solvent | MeOH | 45 mL | CO | CH4O
product | [5-Methyl-2-(5-methyl-thiophen-2-yl)-oxazol-4-yl]-acetic acid | 2.47 g, 76% | CC1=C(N=C(O1)C=1SC(=CC1)C)CC(=O)O | C11H11NO3S
